US08071592B2
(b) 6-Chloro-1,2,4-benzotriazin-3(4H)-one 1-oxide
A suspension of N-(5-chloro-2-nitrophenyl)urea (1.558 g, 7.230 mmol) in an aqueous NaOH solution (4.34 g NaOH in 15 ml water) was heated at reflux for 0.5 h before cooling and treatment with water (100 ml). The mixture was then heated to reflux again and the hot mixture filtered through a Buchner funnel. The filtrate was then acidified with conc. HCl and the resultant solid was filtered, washed with water (20 ml) and dried in vacuo to give the desired product (700 mg, 49%).

reactant | N-(5-chloro-2-nitrophenyl)urea | 7.230 mmol, 1.558 g | ClC=1C=CC(=C(C1)NC(=O)N)[N+](=O)[O-] | C7H6ClN3O3
reactant | NaOH | 15 ml, 4.34 g | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 6-Chloro-1,2,4-benzotriazin-3(4H)-one 1-oxide | 700 mg, 49% | ClC=1C=CC2=C(NC(N=[N+]2[O-])=O)C1 | C7H4ClN3O2
